US08492561B2
To a solution of 3,4-dimethylbenzaldehyde (CAS 68844-97-3) (4.0 g, 29.6 mmol) and 3-fluoro-benzeneacetonitrile (CAS 501-00-8) (4.35 g, 29.6 mmol) in absolute EtOH, 30 mL, was added NaOMe (0.1 equiv), then the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was cooled to 0° C. and filtered. The precipitate was washed with cold EtOH and gave (2E)-3-(3,4-dimethylphenyl)-2-(3-fluorophenyl)acrylonitrile as a white solid (6.20 g, 78%). NaBH4 (1.8 g, 47 mmol) was added slowly to a solution of (2E)-3-(3,4-dimethylphenyl)-2-(3-fluorophenyl)acrylonitrile (6.17 g, 23.5 mmol) in EtOH (100 mL) under argon. The mixture was stirred at 70° C. for 16 h. The solution was cooled to room temperature and quenched with water. The reaction mixture was diluted with 100 mL water and acidified with 6M HCl (aq.). After extraction with ether (3×100 mL), the combined organic layers were washed with water and brine, dried over MgSO4, filtered and concentrated and gave 3-(3,4-dimethylphenyl)-2-(3-fluorophenyl)propanenitrile as a white solid (6 g, 96%). DIBAL-H (1.0 M in toluene, 14 mL, 14 mmol) was added dropwise to a solution of 3-(3,4-dimethylphenyl)-2-(3-fluorophenyl)propanenitrile (2.93 g, 11.72 mmol) in Toluene (40 mL) at −78° C. under argon. The mixture was stirred at −78° C. to −20° C. for 3 h and then quenched by slow addition of saturated NH4Cl solution (2 mL) followed by Celite (2 g) at −20° C. The mixture was diluted with Et2O (50 mL), warmed slowly to room temperature, and stirred till all aluminum precipitated. The solid was filtered and washed with ether (3×50 mL), the combined organic layers were dried over MgSO4, filtered, concentrated and gave Intermediate 5 (2.34 g, 74%).

reactant | NaBH4 | 47 mmol, 1.8 g | [BH4-].[Na+]
reactant | (2E)-3-(3,4-dimethylphenyl)-2-(3-fluorophenyl)acrylonitrile | 23.5 mmol, 6.17 g | CC=1C=C(C=CC1C)/C=C(/C#N)\C1=CC(=CC=C1)F | C17H14FN
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-(3,4-dimethylphenyl)-2-(3-fluorophenyl)propanenitrile | 6 g, 96% | CC=1C=C(C=CC1C)CC(C#N)C1=CC(=CC=C1)F | C17H16FN
